.subckt MAX933   1     102    3  4   49  235  97  197
*
VE1 2 101  0V
VE2 2 235 0V
  f101    3  9 v1 1
  iee100   7  400 dc 100.0E-6
  q101    9  20  7 qin
  q2    8  21  7 qin
  q3    9  8  399 qmo
  q4    8  8  399 qmi
  VMB 400 0 0V
  VPB 399 3 0V
***================
RIN1 2 23 20K
RIN2 1 25 20K
***
DCM2 70 3 DP
DCM1 4 24 DP
VCM1 70 24 1.3V
DCM3 4 26 DP
VCM2 71 26 1.3V
DCM4 71 3 DP
***
IPSUP 0 3 2.5523948MA
IMSUP 0 4 -2.552948MA
***
EHYST 23 20 POLY(1) 0 60 0 1
VS2 21 25 0V
.model qin NPN(Is=800.0E-18 Bf=5E6)
.model qmi PNP(Is=800.0E-18 Bf=1002)
.model qmo PNP(Is=800.0E-18 Bf=1000 Cjc=1E-15 Tr=6.662E-6)
.MODEL PMOS PMOS 
*(VTO=-1.7 KP=1.8E-3)
  e1   10  4  3  9  1
  v1   10 11 dc 0
  q5    5 11  44 qoc
  VSHIFT  44 400 0V
  R55 399 5 10K
  DP5 5 3 DP
  DP6 4 5 DP
***============= Hysterisis section
RINH 49 50 200
I50 50 0 0.02NA
D50 50 200 DX 
EREFER 200 0 235 4 1
D51 4 50 DX
GH 0 51 97 0 1E-6
RH1 3 51 1E9
RH2 4 51 1E9
DP1 51 52 DP
DP2 53 51 DP
VP1 52 0 1V
VP2 53 0 -1V
***=================
GHYST 55 0 50 0 1E-6
GREF 0 55 235 4 1E-6 
RREF 55 0 1E6
DP10 55 56 DP
DP20 57 55 DP
VP10 56 0 50MV
VP20 57 0 0MV
*LOGIC OUTPUT, NODE 60 ALTERS THE POLARITY, SO 55 SHOULD ALWAYS BE POS.
GMULT 60 0 POLY(2) 51 0 55 0 0 0  0 0 1E-6
RMULT 60 0 1E6
*================
*EH 3 98 3 4 0.5
VVIRTUAL 98 0 0V
F5 3 38 VA8 1
D9 40 38 DX
D10 38 3 DX
VA7 3 40 0
F6 3  4 VA7 1
G12 98 32 5 0 7.04E-3
R15 98 32 142
D3 36 41 DX
D4 42 37 DX
V5 34 36 -.63
V4 37 34 -.65
****V4,V5 SET ISC
R16 41 35 7
R17 42 35 145
E11 3 33 3 32 1
VA8 33 34 0V
L 35 97 10NH
*========================
.model qoc NPN(Is=800.0E-18 Bf=2.069E3 Cjc=1E-15 Tf=25.53E-9 Tr=6.983E-6)
  dp    4  3 DX
  rp    3  4 2.041E3
.MODEL DX  D(Is=800.0E-18)
.MODEL DP D(N=0.001)
*=======================
*=======================
* MAX931-934 VOLTAGE REF. 
*
VREF 301 4 1.1832V
VSHORT 235 302 0V
RIN200 301 302 1MEG
F226 3 4 VA227 1
F225 3 238 VA228 1
D229 240 238 DX
D230 238 3 DX
VA227 3 240 0
***=====================
G232 0 232 301 302 1E-3
R235 0 232 1E6
C235 0 232 6800PF
D223 232 236 DX2
D224 237 232 DX2
V225 235 237 1.8mV
V224 236 235 .9mV
R236 234 235 60
E221 3 233 3 232 1
VA228 233 234 0V
*
***== MODELS USED ==***
.MODEL DX2 D(IS=1E-15 n=0.001) 
*.MODEL DX D(IS=1E-15) 
***===============================
* SECOND COMPARATOR
* 
  f201    3  109 v101 1
  iee200   107  500 dc 100.0E-6
  q201    109  120  107 qin
  q102    108  121  107 qin
  q103    109  108  499 qmo
  q104    108 108  499 qmi
  VMB100 500 0 0V
  VPB100 499 3 0V
***================
RIN101 102 123 20K
RIN102 101 125 20K
***
DCM102 170 3 DP
DCM101 4 124 DP
VCM101 170 124 1.3V
DCM103 4 126 DP
VCM102 171 126 1.3V
DCM104 171 3 DP
***
IPSUP100 0 3 2.5523948MA
IMSUP100 0 4 -2.5523948MA
***=================
EHYST100 123 120 POLY(1) 0 160 0 1
VS102 121 125 0V
***=================
  e101   110  4  3  109  1
  v101   110 111 dc 0
  q105    105 111  144 qoc
  VSHIFT100  144 500 0V
  R155 499 105 10K
  DP105 105 3 DP
  DP106 4 105 DP
***============= Hysterisis section
GH100 0 151 197 0 1E-6
RH101 3 51 1E9
RH102 4 51 1E9
DP101 151 152 DP
DP102 153 151 DP
VP100 152 0 1V
VP102 153 0 -1V
***=================
GHYST100 155 0 50 0 1E-6
GREF100 0 155 235 4 1E-6 
*NODE 235 STAYS SAME FOR BOTH AMPLIFIERS.
RREF100 155 0 1E6
DP110 155 156 DP
DP120 157 155 DP
VP110 156 0 50MV
VP120 157 0 0MV
*LOGIC OUTPUT, NODE 160 ALTERS THE POLARITY, SO 55 SHOULD ALWAYS BE POS.
GMULT100 160 0 POLY(2) 151 0 155 0 0 0  0 0 1E-6
RMULT100 160 0 1E6
*================
VVIRTUAL100 198 0 0V
F105 3 138 VA108 1
D109 140 138 DX
D110 138 3 DX
VA107 3 140 0
F106 3  4 VA107 1
G112 198 132 105 0 7.04E-3
R115 198 132 142
D103 136 141 DX
D104 142 137 DX
V105 134 136 -.63
V104 137 134 -.65
****V104,V105 SET ISC
R116 141 135 107
R117 142 135 245
E111 3 133 3 132 1
VA108 133 134 0V
L100 135 197 10NH
*========================
  dp100    4  3 DX
  rp100    3  4 2.041E3
.ENDS MAX933
